US05256645
50 mg of (S)-α-[(S)-α-[(t-butylsulphonyl)methyl]hydrocinnamamido]-N-[(1S,2R,3S)-1-(cyclohexylmethyl)-2,3-dihydroxy-4-methylpentyl]imidazole-4-propionamide and 50 mg of p-toluenesulphonic acid in 3 ml of dimethoxypropane are stirred at room temperature overnight. The reaction mixture is thereafter poured into 2N sodium bicarbonate solution and extracted with ethyl acetate. The organic phases are washed with water, dried and evaporated, whereby there is obtained (S)-α-[(S)-α-[(t-butylsulphonyl)methyl]hydrocinnamamido]-N-[(S)-(cyclohexylmethyl)[(4R,5S)-5-isopropyl-2,2-dimethyl-1,3-dioxolan-4-yl]methyl]imidazole-4-propionamide as a solid, MS: 673 (M+H)+.

reactant | (S)-α-[(S)-α-[(t-butylsulphonyl)methyl]hydrocinnamamido]-N-[(1S,2R,3S)-1-(cyclohexylmethyl)-2,3-dihydroxy-4-methylpentyl]imidazole-4-propionamide | 50 mg | C(C)(C)(C)S(=O)(=O)C[C@H](C(=O)N[C@H](C(=O)N[C@H]([C@H]([C@H](C(C)C)O)O)CC1CCCCC1)CC=1N=CNC1)CC1=CC=CC=C1 | C33H52N4O6S
reactant | p-toluenesulphonic acid | 50 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium bicarbonate | 2N | C([O-])(O)=O.[Na+]
solvent | dimethoxypropane | 3 ml | COC(C)(C)OC | C5H12O2
product | (S)-α-[(S)-α-[(t-butylsulphonyl)methyl]hydrocinnamamido]-N-[(S)-(cyclohexylmethyl)[(4R,5S)-5-isopropyl-2,2-dimethyl-1,3-dioxolan-4-yl]methyl]imidazole-4-propionamide | C(C)(C)(C)S(=O)(=O)C[C@H](C(=O)N[C@H](C(=O)N[C@H]([C@H]1OC(O[C@H]1C(C)C)(C)C)CC1CCCCC1)CC=1N=CNC1)CC1=CC=CC=C1 | C36H56N4O6S
